US06028223
A suspension of 3-furancarboxaldehyde (8.6 ml), malonic acid monoethyl ester (15.8 g) and ammonium acetate (9.6 g) in isopropyl alcohol (200 ml) was heated to reflux under nitrogen. After 5 hours, the excess solvent was removed under reduced pressure and the semi-solid was treated with H2O (250 ml) and acidified to pH 2 using 12N HCl. The aqueous layer was washed with CH2Cl2 (2×100 ml). The aqueous layer was neutralized to pH>9 with K2CO3. The product was extracted with CH2Cl2 (2×100 ml). The organic layer was dried over Na2SO4 and the excess solvent was removed under reduced pressure to give ethyl β-aminofuran-3-propanoate (5 g) as a golden oil. The MS and 1H-NMR were consistent with the desired product.

reactant | 3-furancarboxaldehyde | 8.6 ml | O1C=C(C=C1)C=O | C5H4O2
reactant | malonic acid monoethyl ester | 15.8 g | C(C)OC(CC(=O)O)=O | C5H8O4
reactant | ammonium acetate | 9.6 g | C(C)(=O)[O-].[NH4+]
solvent | isopropyl alcohol | 200 ml | C(C)(C)O | C3H8O
product | ethyl β-aminofuran-3-propanoate | 5 g | NC(CC(=O)OCC)C1=COC=C1 | C9H13NO3
